US06720463B1
Isobutyl (R)-(+)-2-(1-Isobutoxyethoxy)propionate
24.0 g of dehydrated isobutyl vinyl ether was dropwise added to a mixture of 32.7 g of isobutyl (R)-(+)-lactate and 0.3 g of phosphorus oxychloride which was being stirred at room temperature, so that the internal temperature of the reaction system could be kept at 40° C. or less. Then, the resulting mixture was stirred at room temperature overnight. After the reaction, thereto was added 200 ml of ethyl acetate, followed by washing with a saturated aqueous sodium hydrogen carbonate solution, water and a saturated aqueous sodium chloride solution in this order. The washed material was dried over anhydrous sodium sulfate and then subjected to vacuum distillation to remove the solvent. The resulting concentrate was subjected to distillation to obtain 47.8 g (yield: 96.9%) of an oily title compound (diastereomixture).

reactant | isobutyl vinyl ether | 24.0 g | C(=C)OCC(C)C | C6H12O
reactant | isobutyl (R)-(+)-lactate | 32.7 g | C([C@H](O)C)(=O)OCC(C)C | C7H14O3
catalyst | phosphorus oxychloride | 0.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Isobutyl (R)-(+)-2-(1-Isobutoxyethoxy)propionate | 47.8 g, yield: 96.9% | C(C(C)C)OC(C)O[C@@H](C(=O)OCC(C)C)C | C13H26O4
